US09427406B2
9-Aminoacridine (Base):
In a 100 ml round-bottom flask under argon, 1,1′-carbonyldiimidazol (3.0 g) was dissolved in dry DMSO (25 mL), and 4-azidobutyric acid (1.5 g) was added. After 3 h, dry dextran-10 (4.5 g) was added, and the mixture was heated under argon at 75° C. for 18 h. On cooling, ethanol (300 mL) was added to the mixture. The oily precipitate was washed 4 times with boiling ethanol (100 mL portions), and dried at 60° C. The residual solid was dissolved in water to obtain a 10% solution that was filtered using 0.22 μm syringe filter and used without further purification. 4-Azidobutyryl-hydroxypropyl-β-cyclodextrin: In a 250 mL round-bottom flask, dicyclohexylcarbodiimide (6.0 g) was dissolved in dry DMF (30 mL), and 4-dimethylaminopyridine (3.4 g) was added. To this solution, hydroxypropyl-β-cyclodextrine (8.0 g, Aldrich, average Mw=1460 Da) was added, and the mixture was stirred for 5 days at ambient temperature. Solvent was removed in vacuum, the residue separated between CH2Cl2 (50 mL) and deionized water (100 mL), aqueous layer extracted twice with CH2Cl2 (50 mL), and passed through a column containing ion-exchange resins: 35 g of Amberlyst 15 in H+-form and 35 g of Amberlyst A26 in OH− form. The column was washed with 100 mL of deionized water, the solutions were combined, concentrated in vacuum to ca. 25 mL, and lyophilized. The product was obtained as colourless foam.

reactant | 1,1′-carbonyldiimidazol | 3.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-azidobutyric acid | 1.5 g | N(=[N+]=[N-])CCCC(=O)O | C4H7N3O2
reactant | ethanol | 300 mL | C(C)O | C2H6O
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | 9-Aminoacridine | 10% | NC=1C2=CC=CC=C2N=C2C=CC=CC12 | C13H10N2
